US08222246B2
[6-(5-Hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone
As described in example 43h, 6-(5-hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid (881 mg, 2.7 mmol) was converted, using morpholine instead of thiomorpholine 1,1-dioxide, to the title compound (738 mg, 69%) which was obtained as a white foam. MS: m/e=397.3 [M+H]+.

reactant | 6-(5-hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 2.7 mmol, 881 mg | OCC1=C(C(=NO1)C1=NC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O5
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [6-(5-Hydroxymethyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone | 738 mg, 69% | OCC1=C(C(=NO1)C1=NC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCOCC1 | C20H20N4O5
